US07745438B2
1-Fluoro-3-((E)-2-nitro-vinyl)-5-propoxy-benzene
Add ammonium acetate (2.63 g, 34.08 mmol) to 3-fluoro-5-propoxy-benzaldehyde (2.25 g, 12.35 mmol) and nitromethane (3.09 g, 50.63 mmol) in acetic acid (41 mL) at room temperature and heat in 140° C. oil bath for 3 hours. Cool to room temperature and pour into water. Extract with ethyl acetate, dry over magnesium sulfate, filter and concentrate to afford 1.94 g (69.8%) of the desired compound as an oil.

reactant | ammonium acetate | 34.08 mmol, 2.63 g | C(C)(=O)[O-].[NH4+]
reactant | 3-fluoro-5-propoxy-benzaldehyde | 12.35 mmol, 2.25 g | FC=1C=C(C=O)C=C(C1)OCCC | C10H11FO2
reactant | nitromethane | 50.63 mmol, 3.09 g | [N+](=O)([O-])C | CH3NO2
reactant | water | O | H2O
solvent | acetic acid | 41 mL | C(C)(=O)O | C2H4O2
product | 1-Fluoro-3-((E)-2-nitro-vinyl)-5-propoxy-benzene | 1.94 g, 69.8% | FC1=CC(=CC(=C1)OCCC)\C=C\[N+](=O)[O-] | C11H12FNO3
